US08604031B2
N-[4-(3-Acetyl-phenyl)-pyridin-2-yl]-benzamide (200 mg, 0.632 mmol), morpholine HCl salt (78 mg, 0.632 mmol, 1 eq.) and paraformaldehyde (19 mg, 0.632 mmol, 1 eq.) were mixed with dioxane (2 mL) in a microwave tube. It was irradiated at 180° C. for 15 minutes. The mixture was partitioned between DCM/water (10 mL/5 mL). The aqueous layer was washed further with DCM (2×10 mL). The combined organic layer was dried (Na2SO4) and filtered. The filtrate was concentrated and the residue was chromatographed using 20/1 DCM/MeOH to give N-{4-[3-(3-Morpholin-4-yl-propionyl)-phenyl]-pyridin-2-yl}-benzamide as a slightly yellow solid (100 mg, 38%). MS: m/z 416.3 [MH+].

reactant | N-[4-(3-Acetyl-phenyl)-pyridin-2-yl]-benzamide | 0.632 mmol, 200 mg | C(C)(=O)C=1C=C(C=CC1)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O | C20H16N2O2
reactant | morpholine HCl salt | 0.632 mmol, 78 mg, 1 eq. | Cl.N1CCOCC1
reactant | paraformaldehyde | 0.632 mmol, 19 mg, 1 eq. | C=O | CH2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-{4-[3-(3-Morpholin-4-yl-propionyl)-phenyl]-pyridin-2-yl}-benzamide | N1(CCOCC1)CCC(=O)C=1C=C(C=CC1)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O | C25H25N3O3
